US07968538B2
A solution of [1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl]-(5-fluoro-2-methanesulfonyl-phenyl)-amine (0.52 g, 1.34 mmol), piperazine (0.23 g, 2.68 mmol) and N,N-diisopropylethylamine (0.47 mL, 2.68 mmol) in acetonitrile was stirred at 80° C. for 24 h. The reaction mixture was cooled down and concentrated under reduced pressure. The residue was taken up in dichloromethane, washed with water, dried and concentrated in vacuo to yield the crude residue which was purified by preparative TLC (0.5% NH4OH/9.5% methanol/dichloromethane) to afford [1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl]-(2-methanesulfonyl-5-piperazin-1-yl-phenyl)-amine (17 mg, 3%). 1H NMR (400 MHz, CD3OD): δ 7.42 (d, 1H), 6.87 (m, 2H), 6.25 (dd, 1H), 5.90 (s, 1H), 4.87 (m, 1H), 3.85 (s, 1H), 3.81 (s, 1H), 3.05-3.2 (m, 4H), 3.78 (m, 4H), 1.49 (d, 3H). MS (ESI) m/z: Calculated: 453.98; Observed: 454.4 (M+H+); 476.4 (M+Na+); 930.8 (2M+Na+). Mol. Wt.: 453.98 (C21H28ClN3O4S).

reactant | [1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl]-(5-fluoro-2-methanesulfonyl-phenyl)-amine | 1.34 mmol, 0.52 g | ClC=1C=C(C(=C(C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C)OC)OC | C17H19ClFNO4S
reactant | piperazine | 2.68 mmol, 0.23 g | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 2.68 mmol, 0.47 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | [1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl]-(2-methanesulfonyl-5-piperazin-1-yl-phenyl)-amine | 17 mg, 3% | ClC=1C=C(C(=C(C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C)OC)OC | C21H28ClN3O4S
